US05922697
Step 3: (3-Carbamoyl-4-hydroxy-benzyl)-carbamic acid tert-butyl ester
To a solution of 5-(tert-Butoxycarbonylamino-methyl)-2-hydroxy-benzoic acid (20.0 g, 74.9 mmol) in 700 mL tetrahydrofuran at 0° C. was added 4-methyl morpholine (12.3 mL, 112.3 mmol), 1-hydroxybenzo-triazole (15.2 g, 112.3 mmol), followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (21.5 g, 112.3 mmol). Stir for 1 hour at 0° C., then added concentrated ammonium hydroxide (15.2 mL, 112.3 mmol). The reaction was allowed to warm slowly to room temperature and stirred overnight. The reaction was then diluted with ethyl acetate and washed with 5% citric acid (3×250 mL), saturated sodium bicarbonate (3×250 mL), and saturated sodium chloride (1×250 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to yield a pale yellow powder. The powder was collected and washed with ether, followed by drying under reduced pressure to yield (14.0 g, 71%). 1H NMR (400 MHz, DMSO): δ 12.77 (bs, 1H), 8.33 (bs, 1H), 7.72 (d, 1H), 7.28 (d, 2H), 6.84 (d, 1H), 4.05 (d, 2H), 1.38 (s, 9H); Mass Spectrum (Chemical Ionization, 1% NH3 in CH4) m/z 267 (M+H).

reactant | 5-(tert-Butoxycarbonylamino-methyl)-2-hydroxy-benzoic acid | 74.9 mmol, 20.0 g | C(C)(C)(C)OC(=O)NCC=1C=CC(=C(C(=O)O)C1)O | C13H17NO5
reactant | 4-methyl morpholine | 112.3 mmol, 12.3 mL | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzo-triazole | 112.3 mmol, 15.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 112.3 mmol, 21.5 g | Cl.CN(CCCN=C=NCC)C
reactant | ammonium hydroxide | 112.3 mmol, 15.2 mL | [OH-].[NH4+]
reactant | NH3 | N | H3N
solvent | tetrahydrofuran | 700 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH4 | C | CH4
product | (3-Carbamoyl-4-hydroxy-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)O)C(N)=O)=O | C13H18N2O4
